US08486968B2
(d) N-(trans-4-Trifluoromethyl-cyclohexyl)-2-{2-chloro-5-[(1-trifluoromethyl-cyclopropyl-carbonylamino)methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxamide
A mixture of N-(trans-4-trifluoromethyl-cyclohexyl)-6-methylamino-5-amino-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid amide (110 mg, 0.24 mmol), N-(4-chloro-3-isothiocyanato-benzyl)-1-trifluoromethyl-cyclopropylcarboxamide (prepared according to WO2010/100249; 80 mg, 0.24 mmol) and MeCN (7.5 mL) is stirred for 5 h. Then DIC (50 μl, 0.32 mmol) is added and it is stirred overnight at rt and for 2 h at 60° C. The crude mixture is diluted with 40% aq. methylamine-solution, filtered, concentrated and purified by prep. HPLC (X-bridge C18 column; water (+0.15% aq. Ammonia)/MeOH 9:1->MeOH).

reactant | N-(trans-4-trifluoromethyl-cyclohexyl)-6-methylamino-5-amino-2-(4-trifluoromethyl-piperidinyl)-nicotinic acid amide | 0.24 mmol, 110 mg | FC([C@@H]1CC[C@H](CC1)NC(C1=C(N=C(C(=C1)N)NC)N1CCC(CC1)C(F)(F)F)=O)(F)F | C20H27F6N5O
reactant | N-(4-chloro-3-isothiocyanato-benzyl)-1-trifluoromethyl-cyclopropylcarboxamide | 0.24 mmol, 80 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10ClF3N2OS
reactant | MeCN | 7.5 mL | CC#N | C2H3N
reactant | DIC | 0.32 mmol, 50 μl | CC(N=C=NC(C)C)C | C7H14N2
solvent | methylamine | CN | CH5N
product | N-(trans-4-Trifluoromethyl-cyclohexyl)-2-{2-chloro-5-[(1-trifluoromethyl-cyclopropyl-carbonylamino)methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxamide | FC([C@@H]1CC[C@H](CC1)NC(=O)C=1C=C2C(=NC1N1CCC(CC1)C(F)(F)F)N(C(=N2)NC2=C(C=CC(=C2)CNC(=O)C2(CC2)C(F)(F)F)Cl)C)(F)F | C33H35ClF9N7O2
